US04820821
6.0 (28.9 millimoles) of 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride in 50 ml of benzoyl chloride were kept at 120° C. for 10 hours, while stirring. The mixture was cooled and then filtered under suction, and the residue was washed with acetone and recrystallized from isopropanol. 3.3 g (37% of theory) of 4-benzoylimino-1,4-dihydro-1-phenylpyridazine hydrochloride were isolated as pale beige crystals of melting point 225°-226° C. (decomposition).

reactant | 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride | Cl.N=C1C=NN(C=C1)C1=CC=CC=C1
reactant | benzoyl chloride | 50 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 4-benzoylimino-1,4-dihydro-1-phenylpyridazine hydrochloride | 3.3 g, 37% | Cl.C(C1=CC=CC=C1)(=O)N=C1C=NN(C=C1)C1=CC=CC=C1 | InChI=1S/C17H13N3O.ClH/c21-17(14-7-3-1-4-8-14)19-15-11-12-20(18-13-15)16-9-5-2-6-10-16;/h1-13H;1H
